US06127390
Preparation of 5-chloro-1-(3-chlorobenzyl)-2-oxo-1,2-dihydro-pyridine-3-carboxylic acid {2-[3-(4-cyanobenzyl)-3H-imidazol-4-yl]ethyl }-amide
5-Chloro-1-(3-chlorobenzyl)-2-oxo-1,2-dihydro-pyridine-3-carboxylic acid (0.10 g, 0.335 mmol) was dissolved in DMF (10 mL) and treated with EDC (0.077 g, 0.402 mmol), HOBT (0.054 g, 0.402 mmol), 4-cyanobenzyl histamine (0.079 g, 0.352 mmol) and NMM (0.11 mL, 1.00 mmol) and stirred at ambient temperature for 18 hr. The reaction mixture was concentrated to remove the DMF, then partitioned between EtOAc and aq saturated NaHCO3 solution, the organic layer separated, washed with brine and dried (MgSO4). The title compound was obtained upon purification by RP HPLC on a PrepPak column eluting with an acetonitrile/H2O/TFA gradient followed by neutralization with NaHCO3 and extraction.

reactant | 5-Chloro-1-(3-chlorobenzyl)-2-oxo-1,2-dihydro-pyridine-3-carboxylic acid | 0.335 mmol, 0.10 g | ClC=1C=C(C(N(C1)CC1=CC(=CC=C1)Cl)=O)C(=O)O | C13H9Cl2NO3
reactant | EDC | 0.402 mmol, 0.077 g
reactant | HOBT | 0.402 mmol, 0.054 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-cyanobenzyl histamine | 0.352 mmol, 0.079 g | C(#N)C1=CC=C(CNCCC2=CNC=N2)C=C1 | C13H14N4
reactant | NMM | 1.00 mmol, 0.11 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-chloro-1-(3-chlorobenzyl)-2-oxo-1,2-dihydro-pyridine-3-carboxylic acid {2-[3-(4-cyanobenzyl)-3H-imidazol-4-yl]ethyl }-amide | C(#N)C1=CC=C(CN2C=NC=C2CCNC(=O)C=2C(N(C=C(C2)Cl)CC2=CC(=CC=C2)Cl)=O)C=C1 | C26H21Cl2N5O2
